US07560450B2
1-(2-hydroxy-3-phenoxy-propyl)-3-methyl-7-(2-butyn-1-yl)-8-bromo-xanthine
556 mg of 2-phenoxymethyl-oxirane and 110 mg of potassium iodide are added to a mixture of 1.00 g 3-methyl-7-(2-butyn-1-yl)-8-bromo-xanthine and 677 mg of potassium carbonate in 25 ml of N,N-dimethylformamide. The reaction mixture is stirred for approx. eight hours at 120° C. For working up it is diluted with water and extracted with ethyl acetate. The combined extracts are dried over magnesium sulphate, evaporated down and chromatographed through a silica gel column with cyclohexane/ethyl acetate (4:1 to 1:1) as eluant.

reactant | 2-phenoxymethyl-oxirane | 556 mg | O(C1=CC=CC=C1)CC1OC1 | C9H10O2
reactant | potassium iodide | 110 mg | [I-].[K+]
reactant | 3-methyl-7-(2-butyn-1-yl)-8-bromo-xanthine | 1.00 g | CN1C(NC(C=2N(C(=NC12)Br)CC#CC)=O)=O | C10H9BrN4O2
reactant | potassium carbonate | 677 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(2-hydroxy-3-phenoxy-propyl)-3-methyl-7-(2-butyn-1-yl)-8-bromo-xanthine | OC(CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)Br)C)COC1=CC=CC=C1 | C19H19BrN4O4
